US06133319
Preparation of N-Isopropyl-N'-(2-hydroxy-4-nitrophenyl)urea
To a solution of isopropyl isocyanate (221 mg, 2.6 mmol) in toluene, 2-amino-5-nitrophenol (400 mg, 2.6 mmol) was added. The reaction mixture was stirred at 80° C. for 24 hours, then cooled to room temperature. The product was purified by precipitation from toluene and filtering (570 mg, 92%). m.p: 159.8-161.4° C.; EI-MS m/z 240 (M+H)+.

reactant | isopropyl isocyanate | 2.6 mmol, 221 mg | C(C)(C)N=C=O | C4H7NO
reactant | 2-amino-5-nitrophenol | 2.6 mmol, 400 mg | NC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H6N2O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-Isopropyl-N'-(2-hydroxy-4-nitrophenyl)urea | C(C)(C)NC(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])O | C10H13N3O4
